US03963734
EXAMPLE 5: 1-HYDROXY-2,6-BIS(TRIFLUOROMETHYL)-1H-IMIDAZO-(4,5-b)PYRIDINE
5-(Trifluoromethyl)-3-nitro-2-aminopyridine (10.0 grams) in trifluoroacetic anhydride (10 ml.) and pyridine (20 ml.) were heated in a steam bath for two hours. Solvents were then evaporated on a rotary evaporator at 100°C. for one hour, and the residue was taken up in ethyl acetate and hydrogenated over 2.0 g. of 5 percent palladium on carbon. The reaction mixture was then filtered, evaporated, and taken up in ethanol; subsequently, the mixture was washed with 10 percent hydrochloric acid, dried over magnesium sulfate, and evaporated. The resulting 1-hydroxy-2,6-bis(trifluoromethyl)-1H-imidazo(4,5-b)pyridine product was recrystallized from acetone, m.p., 239°-40°C.

reactant | 5-(Trifluoromethyl)-3-nitro-2-aminopyridine | 10.0 grams | FC(C=1C=C(C(=NC1)N)[N+](=O)[O-])(F)F | C6H4F3N3O2
solvent | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-HYDROXY-2,6-BIS(TRIFLUOROMETHYL)-1H-IMIDAZO-(4,5-b)PYRIDINE | ON1C(=NC2=NC=C(C=C21)C(F)(F)F)C(F)(F)F | C8H3F6N3O
